US06352982B1
In methanol (12 ml) were dissolved 2-amino-α-(3-tert-butoxycarbonylaminophenyl)-5-(3-phenylpropyloxy)benzyl alcohol (0.7 g), 4-benzyloxybenzaldehyde (0.38 g) and acetic acid (0.1 g). To the solution was added cyano sodium borohydride (0.11 g). The mixture was stirred for 30 minutes at 60° C. The reaction mixture was concentrated, to which were added ethyl acetate (50 ml) and water (100 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to leave 2-(4-benzyloxybenzyl)-α-3-tert-butoxycarbonylaminomethylphenyl)-5-(3-phenylpropyloxy)benzyl alcohol as a yellow oily product (0.95 g).

reactant | 2-amino-α-(3-tert-butoxycarbonylaminophenyl)-5-(3-phenylpropyloxy)benzyl alcohol | 0.7 g | NC1=C(C(C2=CC(=CC=C2)NC(=O)OC(C)(C)C)O)C=C(C=C1)OCCCC1=CC=CC=C1 | C27H32N2O4
reactant | 4-benzyloxybenzaldehyde | 0.38 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | acetic acid | 0.1 g | C(C)(=O)O | C2H4O2
reactant | cyano sodium borohydride | 0.11 g | [BH4-].C(#N)[Na]
solvent | methanol | 12 ml | CO | CH4O
product | 5-(3-phenylpropyloxy)benzyl alcohol | C1(=CC=CC=C1)CCCOC=1C=CC=C(CO)C1 | C16H18O2
